US04690931
1. 2-(4-Benzylpiperidino)-3'-chloropropiophenone
A solution of 26.48 g (0.107 mol) of 2-bromo-3'-chloropropiophenone in 70 ml of acetonitrile is placed in a 500 ml three-necked round-bottomed flask equipped with a pressure equalizing funnel, a calcium chloride drying tube and a magnetic stirrer, and 37.5 g (0.214 mol) of 4-benzylpiperidine are then added at ambient temperature over a period of about 20 minutes, without stirring. The mixture warms up; it is allowed to return to ambient temperature and, after 3 hours, 4-benzylpiperidine hydrobromide is crystallised by cooling the mixture on ice and triturating it. The crystals are filtered off and washed with acetonitrile (2×10 ml) and the filtrate is diluted with 200 ml of diethyl ether. Further 4-benzylpiperidine hydrobromide precipitates and is filtered off. 100 ml of 3N hydrochloric acid are added to the filtrate and the mixture is stirred. Three phases form. The two lower phases are collected, the upper phase is taken up in a few ml of water and the aqueous phase obtained is combined with the two phases previously separated off. Precipitation occurs. The mixture is cooled on ice, stirred and filtered on a glass frit and the first crop of precipitate is dried in a vacuum oven. The filtrate deposits a second precipitate, which is shown by thin layer chromatography to be the same product as the first crop. A total of 34.06 g of crystals of the hydrochloride, melting at between 189° and 198° C., is thus recovered, which is used as such in the subsequent reduction.

reactant | 2-bromo-3'-chloropropiophenone | 0.107 mol, 26.48 g | BrC(C(=O)C1=CC(=CC=C1)Cl)C | C9H8BrClO
reactant | 4-benzylpiperidine | 0.214 mol, 37.5 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 2-(4-Benzylpiperidino)-3'-chloropropiophenone | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)C1=CC(=CC=C1)Cl)C | C21H24ClNO
